US08471005B2
[7-(2-Methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-{4-[2-(4-methyl-piperazin-1-yl)-ethoxy]-phenyl}-amine
The titled compound was prepared in an analogous fashion to Example 47 replacing 6-Morpholin-4-yl-pyridin-3-ylamine with 4-[2-(4-Methyl-piperazin-1-yl)-ethoxy]-phenylamine to [7-(2-Methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-{4-[2-(4-methyl-piperazin-1-yl)-ethoxy]-phenyl}-amine; compound with trifluoro-acetic acid as a yellow powder. LCMS (E/I+) 459.9 (M+H). NMR 1H (DSMO-d6)-9.27 (s, 1H), 8.93 (s, 1H7.81 (dd, 1H, Jj=1.40, 6.17 Hz), 7.65 (d, 2H, J=9.00 Hz), 7.45 (t, 1H, J=9.72 Hz), 7.21 (d, 1H, J=8.32 Hz), 7.12 (t, 1H, J=7.49 Hz), 6.94 (d, 1H, J=4.61 hz), 6.91 (d, 1H, J=4.64), 6.84 (d, 2H, J=9.00 Hz), 4.19 (t, 2H, J=4.72 Hz), 3.78 (s, 3H), 2.90-3.70 (bm, 10), 2.84 (s, 3H).

reactant | 6-Morpholin-4-yl-pyridin-3-ylamine | N1(CCOCC1)C1=CC=C(C=N1)N | C9H13N3O
reactant | 4-[2-(4-Methyl-piperazin-1-yl)-ethoxy]-phenylamine | CN1CCN(CC1)CCOC1=CC=C(C=C1)N | C13H21N3O
reactant | [7-(2-Methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-{4-[2-(4-methyl-piperazin-1-yl)-ethoxy]-phenyl}-amine; compound with trifluoro-acetic acid | FC(C(=O)O)(F)F.COC1=C(C=CC=C1)C1=CC=C2C=NC(=NN21)NC2=CC=C(C=C2)OCCN2CCN(CC2)C
product | [7-(2-Methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-{4-[2-(4-methyl-piperazin-1-yl)-ethoxy]-phenyl}-amine | COC1=C(C=CC=C1)C1=CC=C2C=NC(=NN21)NC2=CC=C(C=C2)OCCN2CCN(CC2)C | C26H30N6O2
